US05055458
6-Chloro-9-[3-(diethoxyphosphorylmethoxy)propoxy]-2-formamidopurine (1.5 g, 3.56 mmol) was heated at 100° C. for 2 h in 80% formic acid (15 ml) then evaporated under reduced pressure. The residue was taken up in methanol (15 ml) and 0.88 ammonia (15 ml) and stirred at 25° C. for 1 h then evaporated to dryness. Precipitation from hot water afforded 9-[3-(diethoxyphosphorylmethoxy)propoxy]guanine (0.69 g, 52%) as a pale yellow solid; νmax 3335, 1694, 1475, 1390, 1249, 1026 cm-1 ; δH [(CD3)2SO] 1.22(6H, t, J7 Hz, (CH3CH2O)2), 1.90(2H, m, CH2CH2CH2), 3.68(2H, t, J6 Hz, CH2OCH2P), 3.83(2H, d, J8.3 Hz, CH2P), 4.03(4 H, m, (CH3CH2O)2), 4.31(2H, t, J6.6 Hz, CH2ON), 6.60(2H, br.s, D2O exchangeable, NH2) 7.95(1H, s, H-8), 10.50(1H, br.s, D2O exchangeable, NH); Found C, 41.90; H, 5.94; N, 18.65%; C13H22N5O6P requires: C, 41.60; H, 5 91; N, 18.61%.

reactant | 6-Chloro-9-[3-(diethoxyphosphorylmethoxy)propoxy]-2-formamidopurine | 3.56 mmol, 1.5 g | ClC1=C2N=CN(C2=NC(=N1)NC=O)OCCCOCP(=O)(OCC)OCC | C14H21ClN5O6P
reactant | formic acid | 15 ml | C(=O)O | CH2O2
product | 9-[3-(diethoxyphosphorylmethoxy)propoxy]guanine | 0.69 g, 52% | C(C)OP(=O)(OCC)COCCCON1C=2N=C(NC(C2N=C1)=O)N | C13H22N5O6P
